US04436726
Starting from tert-butyl 3-hexanoyloxyoctanoate (157 mg) prepared by the method described in Preparation 5 and N-glycyl-L-serine (243 mg), N-[N-(3-hexanoyloxyoctanoyl)glycyl]-L-serine (105 mg) was obtained as an oil according to similar manner to that of Example 1.

reactant | tert-butyl 3-hexanoyloxyoctanoate | 157 mg | C(CCCCC)(=O)OC(CC(=O)OC(C)(C)C)CCCCC | C18H34O4
reactant | N-glycyl-L-serine | 243 mg | NCC(=O)N[C@@H](CO)C(=O)O | C5H10N2O4
product | N-[N-(3-hexanoyloxyoctanoyl)glycyl]-L-serine | 105 mg | C(CCCCC)(=O)OC(CC(=O)NCC(=O)N[C@@H](CO)C(=O)O)CCCCC | C19H34N2O7
